US05387585
3.1. A solution of 11.4 g of 5-(chloromethyl)pyrazolo[1,5-c]quinazoline in 160 ml of dioxan is added dropwise within 15 min. to a mixture of 130 ml of 1N aqueous sodium hydroxide solution and 130 ml of dioxan cooled to 0° to 5° C. The cooling is removed and the mixture is stirred at room temperature for 2.5 h. Then, the reaction mixture is poured into 600 ml of saturated aqueous sodium chloride solution and extracted four times with dichloromethane. The dichloromethane extracts are evaporated in a vacuum. The residue (5.4 g) is crystallized from dichloromethane/diethyl ether. There are obtained 4.15 g of 5H-pyrazolo[1,5-d][1,4]benzodiazepin-6(7H)-one of m.p. 236°-240° C.

reactant | 5-(chloromethyl)pyrazolo[1,5-c]quinazoline | 11.4 g | ClCC1=NC=2C=CC=CC2C=2N1N=CC2 | C11H8ClN3
reactant | sodium hydroxide | 1N, 130 ml | [OH-].[Na+]
solvent | dioxan | 160 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 130 ml | O1CCOCC1 | C4H8O2
product | 5H-pyrazolo[1,5-d][1,4]benzodiazepin-6(7H)-one | 4.15 g | C=1C=NN2CC(NC3=C(C21)C=CC=C3)=O | C11H9N3O
